US08859553B2
Step 3. 3-Iodo-4-methyl-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide
A solution of 3-iodo-4-methylbenzoic acid (0.26 g, 1 mmol) in SOCl2 (5 mL) was refluxed for 3 hrs, then evaporated in vacuo to remove residual SOCl2. The residue was dissolved in 5 mL anhydrous THF and added to a solution of triethylamine (0.12 g, 1 mmol), 4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)aniline (0.24 g, 1 mmol) and DMAP (12 mg) in 5 mL anhydrous THF in dropwise. The result mixture was stirred at rt for 40 hrs, and evaporated in vacuo. To the residue water was added and extracted with EtOAc (20 mL×3), the organic layer was washed with brine, dried with Na2SO4, after filtration, the filtrate was purified by chromatography on silica gel (CH2Cl2/CH3OH 97:3) to give 0.4 g crude product. The crude product was triturated with PE/EtOAc to give the title compound 0.35 g as pale yellow solid (72.2%). 1H NMR (300 MHz, CDCl3) δ: 8.91 (1H, s), 8.37 (1H, s), 8.08-8.12 (2H, m), 7.86-7.83 (1H, d, J=8.4 Hz), 7.54 (1H, s), 7.34-7.36 (2H, m), 6.84 (1H, s), 2.50 (3H, s), 2.29 (3H, s). LCMS: m/z [M+H]+ 486.0493.

reactant | 3-iodo-4-methylbenzoic acid | 1 mmol, 0.26 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | triethylamine | 1 mmol, 0.12 g | C(C)N(CC)CC | C6H15N
reactant | 4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)aniline | 1 mmol, 0.24 g | CC=1N=CN(C1)C1=C(C=C(N)C=C1)C(F)(F)F | C11H10F3N3
solvent | SOCl2 | 5 mL | O=S(Cl)Cl | Cl2OS
catalyst | DMAP | 12 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-Iodo-4-methyl-N-(4-(4-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)phenyl)benzamide | 0.35 g, 72.2% | IC=1C=C(C(=O)NC2=CC(=C(C=C2)N2C=NC(=C2)C)C(F)(F)F)C=CC1C | C19H15F3IN3O
